US07960369B2
3-[4-[(2′-methyl-6′-propylbiphenyl-3-yl)methoxy]phenyl]propanoic acid
To a solution of methyl 3-(4-hydroxyphenyl)propanoate (0.21 g, 1.14 mmol), (2′-methyl-6′-propylbiphenyl-3-yl)methanol (0.25 g, 1.04 mmol) and tributylphosphine (0.39 mL, 1.56 mmol) in tetrahydrofuran (6 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.39 g, 1.56 mmol) with stirring at 0° C., and the mixture was stirred at room temperature for 16 hrs. Diethyl ether was added to the reaction mixture, the insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-hexane/ethyl acetate=4/1) to give as a colorless oil. This product was then dissolved in a mixed solution of methanol (4.0 mL) and tetrahydrofuran (6.0 mL), 1N aqueous sodium hydroxide solution (2.28 mL) was added at room temperature with stirring, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was adjusted to pH 3 with 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried (anhydrous magnesium sulfate), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1-1/2) to give the title compound (0.24 g, yield 59%) as colorless crystals. MS (APCI−): 387 (M−H).

reactant | methyl 3-(4-hydroxyphenyl)propanoate | 1.14 mmol, 0.21 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | (2′-methyl-6′-propylbiphenyl-3-yl)methanol | 1.04 mmol, 0.25 g | CC1=C(C(=CC=C1)CCC)C1=CC(=CC=C1)CO | C17H20O
reactant | tributylphosphine | 1.56 mmol, 0.39 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.56 mmol, 0.39 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | methanol | 4.0 mL | CO | CH4O
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 2.28 mL | [OH-].[Na+]
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 3-[4-[(2′-methyl-6′-propylbiphenyl-3-yl)methoxy]phenyl]propanoic acid | 0.24 g, yield 59% | CC1=C(C(=CC=C1)CCC)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)O | C26H28O3
